US08022062B2
To a solution of 3-tert-butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.1 g, 2.36 mmol) in DMF (7 mL), add tert-butylamine (12.05 g, 165.2 mmol), EDC (1.81 g, 9.44 mmol) and HOBt (1.44 g, 10.62 mmol) and stir in a sealed tube at 70° C. overnight. Dilute with EtOAc, wash with water, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 3-tert-butoxycarbonyl-6-(4-tert-butylcarbamoyl-3-fluorobenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a clear oil. MS (APCI+) m/z: 421 (M+H)+. Use a method similar to the General Procedure 1-4 to give the title compound as a white powder. MS (APCI+) m/z: 421 (M+H)+.

reactant | 3-tert-butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.36 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C(=O)O)F | C23H25ClFNO4S
reactant | tert-butylamine | 165.2 mmol, 12.05 g | C(C)(C)(C)N | C4H11N
reactant | EDC | 9.44 mmol, 1.81 g
reactant | HOBt | 10.62 mmol, 1.44 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-tert-butoxycarbonyl-6-(4-tert-butylcarbamoyl-3-fluorobenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C(NC(C)(C)C)=O)F | C27H34ClFN2O3S
